US08076336B2
2-Bromo-1-[3-tert-butyl-5-(1-methoxy-1-methylethyl)phenyl]ethanone
1-[3-tert-Butyl-5-(1-hydroxy-1-methylethyl)phenyl]ethanone (O2.100; 500 mg) was initially charged in a mixture of THF and methanol (3.5/3.5 ml) while stirring at RT, and admixed with phenyltrimethylammonium tribromide (800 mg). After stirring at RT for 7 h, the mixture was admixed with water and saturated sodium hydrogencarbonate solution. Then it was extracted three times with EA, and the combined EA phases were dried over sodium sulfate, filtered and concentrated. The residue was purified using silica gel (70 g cartridge, n-heptane/EA gradient). 454 mg of the title compound were obtained. LC-MS rt: 1.23 min [M+H—HOMe]+: 295.1 (met. b)

reactant | 1-[3-tert-Butyl-5-(1-hydroxy-1-methylethyl)phenyl]ethanone | 500 mg | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)O)C(C)=O | C15H22O2
reactant | phenyltrimethylammonium tribromide | 800 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | 3.5 ml | CO | CH4O
product | 2-Bromo-1-[3-tert-butyl-5-(1-methoxy-1-methylethyl)phenyl]ethanone | 454 mg | BrCC(=O)C1=CC(=CC(=C1)C(C)(C)OC)C(C)(C)C | C16H23BrO2
